US04894084
A solution of 9.0 g (0.020 mole) of methyl 3-[5- fluoro-4-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)-2-nitrophenyl]-2-bromopropionate in 100 mL of glacial acetic acid was stirred, and 9.0 mL of water was added. The reaction mixture was warmed to 40° C., and 9.0 g (0.16 mole) of iron powder was slowly added. Upon completion of addition the reaction mixture was allowed to cool to ambient temperature where it was stirred for 2 hours. The reaction mixture was filtered through a pad of diatomaceous earth. The filtrate was diluted with water, and the mixture was extracted with 100 mL of ethyl acetate. The filtrate was concentrated under reduced pressure to yield 7.5 g of 1-(3-bromo-6-fluoro-3,4-dihydroquinolin-2(1H)-one-7-yl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | methyl 3-[5- fluoro-4-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)-2-nitrophenyl]-2-bromopropionate | 0.020 mole, 9.0 g | FC=1C(=CC(=C(C1)CC(C(=O)OC)Br)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C | C14H12BrF3N4O5
reactant | water | 9.0 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.16 mole, 9.0 g | [Fe] | Fe
product | 1-(3-bromo-6-fluoro-3,4-dihydroquinolin-2(1H)-one-7-yl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 7.5 g | BrC1C(NC2=CC(=C(C=C2C1)F)N1N=C(N(C1=O)C(F)F)C)=O | C13H10BrF3N4O2
